US07842713B2
Preparation of Intermediate 350d: Ethyl 4-Hydroxy-3-methyl-1-benzothiophene-6-carboxylate
Ethyl 4-(acetyloxy)-3-methyl-1-benzothiophene-6-carboxylate was dissolved in absolute ethanol (500 mL). Potassium carbonate (35 g, 0.25 mol) was added. The reaction mixture was stirred for 3 h at 60° C. and diluted with 200 mL of dichloromethane. The suspension was filtered. The precipitate was washed by 100 mL of dichloromethane. The combined solutions were washed by 200 mL of a 10% aqueous solution of citric acid and evaporated in vacuum to dryness. The obtained crude product was chromatographed on a layer of silica gel (150×100 mm) with hexane/ethyl acetate mixture (2:1) to give the desired product 19.5 g (82 mmol, 60%) as a cream solid. 1H NMR (DMSO-D6): δ ppm 1.35 (t, 3H), 2.60 (s, 3H), 4.20 (qt, 2H), 7.29 (m, 1H), 7.35 (s, 1H), 7.95 (s, 1H); MS (APCI, pos): 237.1.

reactant | Ethyl 4-(acetyloxy)-3-methyl-1-benzothiophene-6-carboxylate | C(C)(=O)OC1=CC(=CC2=C1C(=CS2)C)C(=O)OCC | C14H14O4S
reactant | Potassium carbonate | 0.25 mol, 35 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Ethyl 4-Hydroxy-3-methyl-1-benzothiophene-6-carboxylate | 82 mmol, 19.5 g, 60% | OC1=CC(=CC2=C1C(=CS2)C)C(=O)OCC | C12H12O3S
